US07968552B2
A mixture of 4-[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methoxy]benzaldehyde, 2-bromoethyl acetate, cesium carbonate and DMF was stirred at 60° C. for 21 hours to obtain 2-({3′-[(4-formylphenoxy)methyl]-2,6-dimethylbiphenyl-4-yl}oxy)ethyl acetate.

reactant | 4-[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methoxy]benzaldehyde | OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC=C(C=O)C=C1)C | C22H20O3
reactant | 2-bromoethyl acetate | C(C)(=O)OCCBr | C4H7BrO2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-({3′-[(4-formylphenoxy)methyl]-2,6-dimethylbiphenyl-4-yl}oxy)ethyl acetate | C(C)(=O)OCCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC=C(C=C1)C=O)C | C26H26O5
